US09034866B2
Synthesis of (±)-methyl 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate
Methyl 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was prepared similarly according to the procedure in Example 9. methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate was reacted with 1,3-dimethyl-1 h-pyrazole-4-carbaldehyde to afford the crude title compound which was carried forward without further purification.

reactant | methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)OC)C1)F | C13H10BrFN2O3
reactant | 1,3-dimethyl-1 h-pyrazole-4-carbaldehyde | CN1N=C(C(=C1)C=O)C | C6H8N2O
product | (±)-methyl 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(O)C=3C(=NN(C3)C)C)C1)F | C19H18BrFN4O4
